US07427632B2
5-Chloro-N-[1-(2-chlorophenyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-2-carboxamide
Using alkylation method A, 5-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-2-carboxamide (320 mg, 0.72 mmol) and acetone (2.0 mL, 27 mmol) afforded, after purification (SiO2: 0 to 2.5% isopropylamine in 1:1 hexane:EtOAc) and recrystallization (acetonitrile), 185 mg (53%) of the title compound.

reactant | 5-chloro-N-[1-(2-chloro-phenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-2-carboxamide | 0.72 mmol, 320 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(COCC1CCNCC1)C1=C(C=CC=C1)Cl | C23H25Cl2N3O2
reactant | acetone | 27 mmol, 2.0 mL | CC(=O)C | C3H6O
product | 5-Chloro-N-[1-(2-chlorophenyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-2-carboxamide | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(COCC1CCN(CC1)C(C)C)C1=C(C=CC=C1)Cl | C26H31Cl2N3O2
